US07265149B2
In analogy to the procedure described for example 1 e], (6-hydroxy-indol-1-yl)-acetic acid ethyl ester was reacted with 5-chloromethyl-3-(4-chloro-phenyl)-1,4-dimethyl-1H-pyrazole in the presence of cesium carbonate and potassium iodide in acetone to give {6-[5-(4-chloro-phenyl)-2,4-dimethyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester as yellow crystals.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | 5-chloromethyl-3-(4-chloro-phenyl)-1,4-dimethyl-1H-pyrazole | ClCC1=C(C(=NN1C)C1=CC=C(C=C1)Cl)C | C12H12Cl2N2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | {6-[5-(4-chloro-phenyl)-2,4-dimethyl-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1C)C1=CC=C(C=C1)Cl)C)=O | C24H24ClN3O3
